Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / doxycycline
 
Attending: ___.
 
Chief Complaint:
"I want my mom." 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Briefly, this is a ___ year old employed woman, no formal 
psychiatric history or prior suicide attempts, significant 
trauma who presented to ___ ED with concerns for worsening 
depression, auditory hallucinations with difficulty functioning 
at home, SI with thoughts of wanting to hang herself.  
. 
Upon initial interview in the ED, patient reported she had 
struggled with depression for "a long time" with worsening 
decline in her mood, motivation, concentration and energy over 
the past few months. Patient endorsed significant trauma 
history, seeing her grandmother die in front of her when she was 
a child
and seeing her family "hurt by police," and described herself 
reliving these events. Reported AH of unknown voices originating 
from her head, telling her these traumas are her fault and that 
she should have done something to prevent them, telling her that 
she would be better off dead. Over the same time period she has 
also noticed "black shadows" which take the form of "monsters" 
whose appearance coincides with that of the voices. Patient 
reported it has been increasingly difficult to function, 
particularly in school, although she has not noticed a decline 
in grades. Ms. ___ has been increasingly withdrawn, 
isolating from friends and family. Denied paranoia, but stated 
she fears her family no longer loves her. Patient also reported 
several weeks of thinking of cutting her wrists or hanging 
herself stating she is unable "to on this way." 
. 
Per collateral obtained from the patient's mother and cousin, 
___: Patient's depression began at age ___ years after her 
maternal grandmother collapsed and died in front of the patient. 
On the ___ prior to presentation, the patient's mother had 
asked to speak with her regarding a debt owed to her cousin, 
___, and the patient "broke down, crying and stating "I'll 
give her all my money! It's all too much! It's all my fault!" 
Patient confided to her mother that she had been experiencing 
voice telling her it was her fault her grandmother had died. On 
day of presentation, the patient's cousin went to check on her 
and Ms. ___ shared the details of her depression and 
anxiety and was notably "screaming, screaming, and screaming." 
Alarmed, the family coaxed Ms. ___ into the car and drove 
her to ___ ED. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints.  
. 
On interview with Ms. ___, who was quite withdrawn during 
the interview and an unreliable and reluctant historian, she 
stated she is here because of "stuff" in my head, stating she 
had been hearing voices over the past several months, telling 
her "different things that are negative." Reported she had also 
been "reliving bad experiences like my grandma passing away, my 
Dad
passing away, my aunt passing away and my baby passing away." 
Patient reported that the voices started several months ago in 
the setting of "being stressed out a lot" with school, bills, 
her car and family. She stated she is not where she wants to be 
in life, having never lived independently, having not completed 
___. Described anhedonia over the past several weeks and 
reported she has been sleeping in order to cope, approximately 
10 hours per night. Endorsed poor energy but denied difficulty 
focusing. However, she reported "blackouts" but would not 
elaborate further. Reported increased appetite with some weight 
gain, but is unsure how much. Reported SI, stating, "the voices 
are telling me to kill myself" but denied intent or plan at this 
time. 
. 
Ms. ___ does report having "anger issues" and notes that 
she becomes enraged when she feels that no one is listening to 
her, "so I yell at them-- I break things and I throw stuff." 
Reported she last became very angry over the weekend after the 
woman who was supposed to cut her hair did not; she stated she
went into her car and just started screaming.  
. 
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, increased 
activity, impulsivity, grandiosity, increased energy. Reported 
history of paranoia towards family but could not elaborate. No 
thought insertion or thought broadcasting. Reports anxiety, but 
again, could not elaborate. Reported history of panic attacks in 
the past but denied recent panic attacks. Denied nightmares but 
had endorsed vivid dreams in the ED. Of note, patient has been 
endorsing flashbacks of her childhood of "not good" things. 
Denies alcohol or illicit drug use. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: no formal diagnoses
- SA/SIB: denies/denies
- Hospitalizations: denies 
- Medication trials: None
- Therapist: ___ ___
- Psychiatrist: none 
. 
Past medical history:
- ectopic pregnancy ___ s/p diagnostic laparoscopic surgery 
- obesity 

 
Social History:
Substance use history:
- Alcohol: denies 
- Illicits: Denies 
- Tobacco: denies 
. 
Personal and Social History: Born and raised in ___ 
and was raised primarily by her mother, whom she described as 
"fun" and "loving." Reports her mother currently works as an 
employment ___, helping elderly people obtain employment. 
Reported her father left the family when she was ___ years old; 
per OMR, she did not have a relationship with him until 
adulthood and
then he later passed away from colon cancer. Patient also has a 
brother who is ___ years older. Mother reports patient's 
depression started when she was ___ years old after her maternal 
grandmother died suddenly, which was witnessed by the patient. 
Since this event, the mother reported she and the patient had 
been extremely close. Patient's older brother is an alcoholic 
and fathered 3 daughters, whom the patient assumed the care of 
at age ___. Patient had been seen by therapists from middle 
school through high school, but disengaged from treatment as she 
became older. Patient also lost her aunt to ___ around the time 
she lost her father and around this time she suffered an ectopic 
pregnancy, resulting in emergent surgery. Patient did not 
graduate high school but did obtain her GED. At this time she is 
currently attending ___ and taking classes in 
___. She has recently been working in the 
___ at a ___ for the past month. Denies legal 
history and denies a history of sexual or physical abuse. 

 
Family History:
Family psychiatric history:
- Diagnoses: per mother, paternal side of psychiatric illness 
with history of suicide. Patient denies knowledge of family 
psychiatric history 
 
Physical Exam:
Admission Examination:
*VS: 98.1    95    109/69     16     97% RA 
Gen: well nourished, well hydrated, in NAD 
HEENT: normocephalic, atraumatic, MMM, PERRL
CV: S1, S2, no m/r/g 
Pulm: CTAB, no w/r/r 
Abd: non-distended, normoactive bowel sounds, nontender to
palpation 
Ext: WWP 
Neuro: CN II-XII intact, ___ strength throughout, no tremors or
adventitious movements noted 

A/B: Appears stated age, dressed in hospital gown, good hygiene
and grooming, withdrawn, adequate eye contact, no psychomotor
agitation or retardation noted
S: soft in volume, normal rate, prosody 
M: "I want my mom." 
A: dysthymic 
TC: see above
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: limited/limited 
.
Discharge Examination: 
98.1 121/76 73 16 97 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate
TC: Denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: Fair/fair 
 
Pertinent Results:
___ 01:40AM   GLUCOSE-78 UREA N-8 CREAT-0.7 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-26 ANION GAP-13
___ 01:40AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:40AM   NEUTS-58.0 ___ MONOS-8.0 EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-6.08 AbsLymp-3.41 AbsMono-0.84* 
AbsEos-0.08 AbsBaso-0.03
___ 01:40AM   PLT COUNT-287
___ 01:35AM URINE  HOURS-RANDOM
___ 01:35AM URINE  HOURS-RANDOM
___ 01:35AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:35AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 01:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 01:35AM URINE  RBC-2 WBC-6* BACTERIA-FEW* YEAST-NONE 
EPI-12 TRANS EPI-<1
___ 01:35AM URINE  MUCOUS-MOD*
___ 05:31AM BLOOD ALT-11 AST-15 AlkPhos-60 TotBili-0.2
___ 05:31AM BLOOD Cholest-149
___ 05:31AM BLOOD VitB12-441 Folate-12
___ 05:31AM BLOOD %HbA1c-5.3 eAG-105
___ 05:31AM BLOOD Triglyc-84 HDL-55 CHOL/HD-2.7 LDLcalc-77
___ 05:31AM BLOOD 25VitD-18*
 
Brief Hospital Course:
This is a ___ woman, no formal psychiatric history or 
prior suicide attempts, who presented to ___ ED with concerns 
for worsening depression,
auditory hallucinations with difficulty functioning at home, SI 
with thoughts of wanting to hang herself. 
. 
Patient notably a limited historian and was significantly 
withdrawn on admission examination, but collateral from mother 
and chart review significant for history of significant trauma 
beginning at age ___ years where the patient witnessed the death 
of her grandmother and subsequently blamed herself for her death 
with longstanding history of depressive symptoms in the setting 
of loss of her aunt to ___ and father to colon cancer. Symptoms 
have appeared to have worsened over the past several months with 
the patient reporting AVH, "paranoia" and with Ms. ___ 
reporting significant "anger issues" with mood reactivity and 
periods of screaming and throwing things. Patient is also 
reporting periods of flashbacks and vivid dreams. Mental status 
examination is notable for an adequately groomed woman who is 
very withdrawn with limited eye contact, soft speech, depressed 
mood, restricted affect but with thought process that is notably 
linear, goal oriented. 
. 
Diagnostically, given history of trauma with longstanding 
history of depression, significant feelings of guilt, mood 
reactivity, reported flashbacks, etiology of presentation is 
likely secondary to unresolved trauma, with patient possibly 
meeting criteria for PTSD. Of note, although the patient is 
reporting AVH and "paranoia" at this time, there does not appear 
to be a prodromal phase to her presentation, and there does not 
appear to be a functional decline that I would expect with a 
primary psychotic. I would also keep MDD on the differential 
diagnosis and given above symptoms she likely does meet DSM V 
criteria for major depression. Of note, nothing in her history 
that would suggest a history of mania/hypomania in the past; she 
does not meet criteria for BPAD at this time. Given her young 
age and good health, presentation is not likely secondary to an 
underlying medical condition. In addition, given her denial of 
substance use and negative tox screen, I do not believe that 
drug or alcohol use are currently contributing to her 
presentation. 
.
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission she initially declined to sign a CV but 
agreed to sign on ___. She maintained her safety 
throughout her hospitalization on 15 minute checks and did not 
require physical or chemical restraints. 
. 
#. Depression (consistent with MDD) and anxiety (possibly 
consistent with PTSD)
Patient actively participated in individual and group 
psychotherapy and was engaged when meeting daily with her 
treatment team to discuss her care. She was started on 
escitalopram 10 mg PO daily which was well tolerated. 
Risperidone was initially offered as a PRN but discontinued as 
patient's AH resolved without antipsychotic treatment (the team 
felt that her reported auditory hallucinations may have been 
negative self-talk secondary to PTSD/depression as opposed to 
primary psychotic disorder, though auditory hallucinations 
secondary to MDD remains on the differential as above.) Ativan 
0.5 mg PO TID PRN insomnia/anxiety was started on admission but 
given the patient's difficulty sleeping, was changed to Ativan 
0.5 mg QHS with an additional Ativan 0.5 mg BID PRN: anxiety or 
agitation (the patient never utilized these PRN doses).
. 
The patient was an active participant in groups and engaged in 
individual DBT exercises and journaling while on the unit. 
Significant improvement in her mood, improved range of affect, 
increasing interaction with peers and improvement in speech 
volume were noted over the course of her hospitalization. At the 
time of discharge, she denied SI/HI, denied any thoughts of 
self-harm, was future oriented, and endorsed plan to follow 
through on her follow-up appointments and medications. She also 
identified her mother as a source of support, and a family 
meeting was held with her mother on the day of discharge at 
which her treatment and follow-up plan were discussed.  
. 
#. Vitamin D deficiency 
Vitamin D level was checked on admission and was low at 18. 
Vitamin D supplementation was started at a dose of 1000 IU PO 
daily.
. 
#. SW/Dispo:
- A family meeting with the patient's mother was held on ___, 
at which the patient's history of grief and loss were discussed. 
The patient and her mother both felt her presentation had 
improved to the point where she could be safely discharged, and 
both were informed about the plans for medications and follow-up 
appointments.  
-Patient's outpatient therapist ___ at the Therapy 
Room was contacted for collateral information, and a follow up 
appointment with her was scheduled for after discharge.
-The patient was referred to ___ 
for intake for psychiatry, group psychotherapy, and possibly 
individual psychotherapy as well.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO QHS 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth at bedtime Disp 
#*15 Tablet Refills:*0 
3.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe 
Unspecified anxiety disorder 

 
Discharge Condition:
98.1   121/76   73    16    97   
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: Denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: Fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___